US04999359
4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylic acid methyl ester dihydrochloride
32.3 g (0.134 moles) of 4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylic acid dihydrochloride in 500 ml of methanol were treated below -5° C. with 16 ml (0.220 moles) of SOCl2.

reactant | 4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylic acid dihydrochloride | 0.134 moles, 32.3 g | Cl.Cl.N1C=NC=2C(NCCC21)C(=O)O
reactant | SOCl2 | 0.220 moles, 16 ml | O=S(Cl)Cl | Cl2OS
reactant | methanol | 500 ml | CO | CH4O
product | 4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylic acid methyl ester dihydrochloride | Cl.Cl.COC(=O)C1NCCC2=C1N=CN2 | InChI=1S/C8H11N3O2.2ClH/c1-13-8(12)7-6-5(2-3-9-7)10-4-11-6;;/h4,7,9H,2-3H2,1H3,(H,10,11);2*1H
